US06583135B2
tert-Butyl 10-bromo-6-{2-[(4-methyl-1,3-thiazol-2-yl)amino]-2-oxoethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.13 g, 0.24 mmol) was dissolved in CH2Cl2 (5 mL). CF3CO2H (0.5 mL, 0.74 g, 6.5 mmol) was added. The reaction mixture was stirred at rt under N2 for 46 h. The reaction mixture was partitioned between 1N NaOH (60 mL) and EtOAc (350 mL). The aqueous layer was back extracted with EtOAc (100 mL). The combined organic layers were washed with brine (25 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was flash chromatographed (10% CH3OH/CH2Cl2 containing 0.05% 7N NH3/CH3OH) and 2-(10-bromo-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)-N-(4-methyl-1,3-thiazol-2-yl)acetamide was obtained in 28% yield. 1H NMR (400 MHz, CD3OD) δ 2.33, 3.02-3.09, 3.14-3.21, 3.55-3.63, 5.16, 6.67, 6.97, 7.21, 7.30; MS (ESI+) for C18H19BrN4OS m/z 420.8 (M+H)+.

reactant | tert-Butyl 10-bromo-6-{2-[(4-methyl-1,3-thiazol-2-yl)amino]-2-oxoethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.24 mmol, 0.13 g | BrC=1C=2C3=C(N(C2C=CC1)CC(=O)NC=1SC=C(N1)C)CCN(CC3)C(=O)OC(C)(C)C | C23H27BrN4O3S
reactant | CF3CO2H | 6.5 mmol, 0.5 mL, 0.74 g | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(10-bromo-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)-N-(4-methyl-1,3-thiazol-2-yl)acetamide | 28% yield | BrC=1C=2C3=C(N(C2C=CC1)CC(=O)NC=1SC=C(N1)C)CCNCC3 | C18H19BrN4OS
